US08609696B2
A stirred solution of methyl 1-{[4-(pyridin-2-yl)phenyl]sulfonyl}piperidine-4-carboxylate (0.25 g, 0.69 mmol) in 5M aqueous HCl (2.5 mL) is heated at 80° C. for 18 h. The mixture is cooled to room temperature resulting in formation of a precipitate. The precipitate is filtered, washed sequentially with 5M aqueous HCl and MeCN and dried in air to give 0.10 g (44%) of 1-{[4-(pyridin-2-yl)phenyl]sulfonyl}piperidine-4-carboxylic acid. m/z=347 [M++H].

reactant | methyl 1-{[4-(pyridin-2-yl)phenyl]sulfonyl}piperidine-4-carboxylate | 0.69 mmol, 0.25 g | N1=C(C=CC=C1)C1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)C(=O)OC | C18H20N2O4S
solvent | HCl | 5M, 2.5 mL | Cl | ClH
product | 1-{[4-(pyridin-2-yl)phenyl]sulfonyl}piperidine-4-carboxylic acid | 0.10 g, 44% | N1=C(C=CC=C1)C1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)C(=O)O | C17H18N2O4S
